US07091214B2
7-Bromo-4-chloro-3-nitroquinoline (33.0 g, 115 mmol) was treated with 4-(2-aminoethyl)-1-(tert-butoxycarbonyl)piperazine (26.4 mL, 115 mmol) according to the method described in Part E of Example 1. The reaction was stirred overnight. The crude product was triturated with diethyl ether and isolated by filtration to provide 33.05 g of tert-butyl 4-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]piperazine-1-carboxylate as a yellow solid.

reactant | 7-Bromo-4-chloro-3-nitroquinoline | 115 mmol, 33.0 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 4-(2-aminoethyl)-1-(tert-butoxycarbonyl)piperazine | 115 mmol, 26.4 mL | NCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H23N3O2
product | tert-butyl 4-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]piperazine-1-carboxylate | 33.05 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCN1CCN(CC1)C(=O)OC(C)(C)C | C20H26BrN5O4
